US09024019B2
Step E: tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-(hydroxymethyl)-3-oxo-5H-1,2,4-triazine-2-carboxylate
To a stirred solution of tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-(benzyloxymethyl)-3-oxo-5H-1,2,4-triazine-2-carboxylate (38.0 g, 79.7 mmol) in EtOH (400 mL) under argon atmosphere was added palladium on charcoal (dry, 5 wt % Pd, 8.00 g). The reaction mixture was purged with hydrogen and heated to 60° C. At this temperature, the reaction mixture was stirred 24 h under H2-atmosphere (approx. 1 atm). The mixture was purged with argon and then filtered using a short plug of silica gel followed by rinsing with additional EtOAc. Evaporation of the solvent furnished the desired product as a sticky oil. LCMS (Method I) RT 1.57 min. [M+H]+ 387.

reactant | tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-(benzyloxymethyl)-3-oxo-5H-1,2,4-triazine-2-carboxylate | 79.7 mmol, 38.0 g | C(C)(=O)N(N1C(N(N=C(C1)COCC1=CC=CC=C1)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C | C23H32N4O7
solvent | EtOH | 400 mL | CCO | C2H6O
catalyst | palladium on charcoal | 8.00 g | [Pd] | Pd
product | tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-(hydroxymethyl)-3-oxo-5H-1,2,4-triazine-2-carboxylate | C(C)(=O)N(N1C(N(N=C(C1)CO)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C | C16H26N4O7
